US08669271B2
5-(4-Methanesulfonyl-phenyl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine
A mixture of 4-[5-(4-methanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (190 mg) and trifluoro acetic acid (0.40 mL) in dichloromethane (3 mL) is stirred at room temperature for 2 h. The reaction mixture is diluted with dichloromethane and washed with aqueous Na2CO3 solution. The aqueous phase is extracted dichloromethane and the combined organic phases are washed with water, dried over MgSO4, and concentrated in vacuo. LC (method 7): tR=0.62 min; Mass spectrum (ESI+): m/z=359 [M+H]+.

reactant | 4-[5-(4-methanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1 | C24H30N2O5S
reactant | trifluoro acetic acid | 0.40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-(4-Methanesulfonyl-phenyl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC(C2)C2CCNCC2 | C19H22N2O3S
